US04578390
Five grams of 4-nitroaniline was stirred in 25 ml of pyridine and 4.95 g of 3,3-dimethylbutyryl chloride was added. The mixture was stirred 15 hours and poured into ice-water. The resultant solid was collected on a filter and dissolved in 200 ml of ethyl acetate and the solution was treated with activated charcoal and concentrated to yield 6.3 g of 4-nitro-3,3-dimethylbutyrylaminobenzene, m.p. 192°-194°. This material was reduced in 200 ml of methanol, at 3 atmospheres of hydrogen in the presence of 5% Pd/carbon. After removal of the catalyst by filtration, concentration of the filtrate gives 5.3 g of product (3,3-dimethylbutyrylamino)aniline, m.p. 138°-140° C.

reactant | 4-nitroaniline | Five grams | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | 3,3-dimethylbutyryl chloride | 4.95 g | CC(CC(=O)Cl)(C)C | C6H11ClO
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 4-nitro-3,3-dimethylbutyrylaminobenzene | 6.3 g | [N+](=O)([O-])C1=CC=C(C=C1)NC(CC(C)(C)C)=O | C12H16N2O3
